US04464300
15.0 g of 7-chloro-5-(2-fluorophenyl)-2-hydrazino-4,5-dihydro-2H-1-benzazepine are dissolved in 200 ml of dimethylformamide. After adding 18 g of N,N'-carbonyl-diimidazole, the mixture is stirred at 52° for 20 hours, poured into 2 l of water and extracted with ethyl acetate. The organic extracts are washed with water, dried and evaporated. The residue is chromatographed on 800 g of silica gel. By elution with chloroform which contains 2% ethanol and crystallization from ether there is obtained 8-chloro-6-(2-fluorophenyl)-2,4,5,6-tetrahydro-1H-s-triazolo[4,3-a][1]benzazepin-1-one of melting point 236°-238°.

reactant | 7-chloro-5-(2-fluorophenyl)-2-hydrazino-4,5-dihydro-2H-1-benzazepine | 15.0 g | ClC=1C=CC2=C(C(CCC(N2)NN)C2=C(C=CC=C2)F)C1 | C16H17ClFN3
reactant | water | 2 l | O | H2O
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 8-chloro-6-(2-fluorophenyl)-2,4,5,6-tetrahydro-1H-s-triazolo[4,3-a][1]benzazepin-1-one | ClC=1C=CC2=C(C(CCC=3N2C(NN3)=O)C3=C(C=CC=C3)F)C1 | C17H13ClFN3O
